US06350735B1
N-({6-[(2,2-Diphenylethyl)amino]-9-tetrahydro-2H-pyran-2-yl-9H-purin-2-yl}methyl)-2-methyl-1-propanesulfonamide
A solution of N-[2-(aminomethyl)-9-tetrahydro-2H-pyran-2-yl-9H-purin-6-yl]-N-(2,2-diphenylethyl)amine (3.70 g, 8.63 mmol) (Preparation 6) and triethylamine (2.20 g, 21.78 mmol) in dry dichloromethane (20 ml) was treated with 2-methyl-1-propanesulfonyl chloride (1.48 g, 9.46 mmol) and the mixture was stirred at room temperature for 18 hours. TLC indicated that some starting material still remained and so further 2-methyl-1-propanesulfonyl chloride (0.2 g, 1.28 mmol) was added and the mixture was stirred at room temperature for 1 hour. The solvent was removed under reduced pressure and the residue was purified by column chromatography on silica gel eluting with dichloromethane:methanol (98:2 by volume) to afford the title compound as a foam (4.4 g).

reactant | N-[2-(aminomethyl)-9-tetrahydro-2H-pyran-2-yl-9H-purin-6-yl]-N-(2,2-diphenylethyl)amine | 8.63 mmol, 3.70 g | NCC1=NC(=C2N=CN(C2=N1)C1OCCCC1)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C25H28N6O
reactant | triethylamine | 21.78 mmol, 2.20 g | C(C)N(CC)CC | C6H15N
reactant | 2-methyl-1-propanesulfonyl chloride | 9.46 mmol, 1.48 g | CC(CS(=O)(=O)Cl)C | C4H9ClO2S
reactant | 2-methyl-1-propanesulfonyl chloride | 1.28 mmol, 0.2 g | CC(CS(=O)(=O)Cl)C | C4H9ClO2S
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | N-({6-[(2,2-Diphenylethyl)amino]-9-tetrahydro-2H-pyran-2-yl-9H-purin-2-yl}methyl)-2-methyl-1-propanesulfonamide | 4.4 g | C1(=CC=CC=C1)C(CNC1=C2N=CN(C2=NC(=N1)CNS(=O)(=O)CC(C)C)C1OCCCC1)C1=CC=CC=C1 | C29H36N6O3S
